* Copyright (c) 1998-2022 Analog Devices, Inc.  All rights reserved.
*
.subckt ADA4899 1 2 3 4 5 6 7
Rz1 3 N1020 Rideal 1e-6
Rz2 4 N004 Rideal 1e-6
R1 N96 0 Rideal 1e3
S1 N97 N96 N1020 N004 Sswitch
V1 N97 0 2
S6 N98 N004 7 N113 Switch
R2 N1020 N99 Rideal 1e7
R3 N99 N004 Rideal 1e7
E1 N111 COM N1020 COM 1
E2 COM N112 COM N004 1
E3 COM 0 N99 0 1
DzPS N98 N1020 diode
E5 N1110 0 N1020 0 1
GBias N1020 N004 N96 0 1.8e-3
GQuies N1020 N98 N96 0 12.9e-3
FIoVcc N314 COM Vmeas8 1
R4 COM N314 Rideal 1e9
DzOVcc COM N314 diode
DOVcc 3 N314 diode
FIoVee N315 COM Vmeas9 1
R5 N315 COM Rideal 1e9
DzOVee N315 COM diode
DOVee N315 4 diode
S2 N1 1 7 N113 Switch
S3 N9 2 7 N113 Switch
VOS N1 N2 35e-6
RinCMP COM N2 Rideal 8.73e6
RinCMN N9 COM Rideal 8.73e6
CinCMP N2 COM 4.2e-12
CinCMN N9 COM 4.2e-12
RinDiff N9 N2 Rideal 4e3
FnIN1 N9 COM Vmeas3 0.7071068
FnIN2 COM N9 Vmeas4 0.7071068
FnIP1 N1 COM Vmeas5 0.7071068
FnIP2 COM N1 Vmeas6 0.7071068
BIbiasN COM N9 I=IF(V(7,0)>4.3, -0.1e-6, -5.975e-6)
BIbiasP COM N1 I=IF(V(7,0)>4.3, -0.1e-6, -6.025e-6)
G1 N3 COM COM N2 0.001
RInP N3 COM Rideal 1e3
RX1 N3 N40 Rideal 0.001
DInP N40 N41 diode
DInN N42 N40 diode
VinP N111 N41 1.76
VinN N42 N112 1.76
RcmrrP N3 N10 Rideal 1e6
RcmrrN N10 N9 Rideal 1e6
Lcmrr N11 N12 159e-3
Rcmrr N12 COM Rideal 1e3
E4 N5 N3 N11 COM 1
G2 N11 COM N10 COM 0.317e-9
hVn1 N6 N5 Vmeas1 707.010678
Vmeas1 N20 COM 0
Vvn1 N21 COM 0.65
Dvn1 N21 N20 DVnoisy
hVn2 N6 N7 Vmeas2 707.010678
Vmeas2 N22 COM 0
Vvn2 N23 COM 0.65
Dvn2 N23 N22 DVnoisy
Vmeas3 N51 COM 0
VnIN1 N50 COM 0.65
DnIN1 N50 N51 DINnoisy
Vmeas4 N53 COM 0
VnIN2 N52 COM 0.65
DnIN2 N52 N53 DINnoisy
Vmeas5 N31 COM 0
VnIP1 N30 COM 0.65
DnIP1 N30 N31 DIPnoisy
Vmeas6 N33 COM 0
VnIP2 N32 COM 0.65
DnIP2 N32 N33 DIPnoisy
R200 N200 COM Rideal 1
R210 N210 COM Rideal 5.137e6
C210 N210 COM 1e-12
B210 COM N210 I=limit(V(N200,COM)*2.574e-3,3.171e-4,-3.171e-4)
R220 N220 COM Rideal 1000
C220 N220 COM 0.0482e-12
G220 COM N220 N210 COM 0.001
R230 N230 COM Rideal 1000
C230 N230 COM 0.0482e-12
G230 COM N230 N220 COM 0.001
R240 N240 COM Rideal 1000
C240 N240 COM 0.0482e-12
G240 COM N240 N230 COM 0.001
R250 N250 COM Rideal 1000
C250 N250 COM 0.0482e-12
G250 COM N250 N240 COM 0.001
R255 N255 COM Rideal 1000
C255 N255 COM 0.0482e-12
G255 COM N255 N250 COM 0.001
R260 N260 COM Rideal 1000
G260 COM N260 N255 COM 0.001
R265 N265 COM Rideal 1000
G265 COM N265 N260 COM 0.001
R270 N270 COM Rideal 1000
G270 COM N270 N265 COM 0.001
G200 N200 COM N7 N9 1
RX2 N60 N210 Rideal 0.001
DzVoutP1 N61 N60 DzVoutP
DzVoutN1 N60 N62 DzVoutN
DVoutP1 N61 N63 diode
DVoutN1 N64 N62 diode
VoutP1 N65 N63 7.152
VoutN1 N64 N66 7.152
E6 N65 COM N111 COM 1.23
E7 N66 COM N112 COM 1.23
DVoutP2 N75 N73 diode
DVoutN2 N74 N75 diode
VoutP2 N111 N73 2.385
VoutN2 N74 N112 2.385
RX4 N75 N310 Rideal 0.001
RF 6 5 Rideal 0.001
L285 N285 N281 6.427e-9
C281 N281 N282 21.315e-12
R282 N282 COM Rideal 38.621
R280 N285 N280 Rideal 10
E280 N280 COM N270 COM 1
R292 N292 COM Rideal 1e6
R290 N290 N292 Rideal 1e-6
E290 N290 COM N285 COM 1
E295 N295 COM N292 COM 1
R300 N300 COM Rideal 1000
E301 N301 COM N300 COM 1
Rout N302 N303 Rideal 36
Lout N303 N3100 0.2e-9
Cout N303 N302 250e-12
H1 N301 N304 Vsense1 100
Vsense1 N301 N302 0
VIoutP N305 N304 7.836
VIoutN N304 N306 6.636
DIoutP N307 N305 diode
DIoutN N306 N307 diode
Rx3 N307 N300 Rideal 0.001
G300 N300 COM N295 COM 0.001
Vmeas8 N310 N311 0
RX5 N311 N312 Rideal 0.001
Vmeas9 N312 N313 0
S4 5 N313 7 N113 Switch
Rxx N3100 N310 Rideal 1
VPD1 N1110 N80 2.6
VPD_hys1 N81 0 0.1
RPD_hys1 N82 0 Rideal 1e3
S5 N81 N82 N83 N113 Switch
CPD_hys1 N82 0 1e-10
CPD_delay1 0 N83 1e-12
RPD_delay1 N83 7 Rideal 10e6
EPD1 N80 N113 N82 0 1
RPD1 N1110 7 Rideal 4e5
RPD2 7 0 Rideal 4e5
Lout_PD N009 N010 4e-9
Cout_PD 0 N010 10e-12
S7 N009 5 N113 7 Switch
.model diode d(bv=100 Noiseless)
.model Switch SW(Von=0.105 Voff=0.095 ron=0.001 roff=1e6 Noiseless)
.model OSwitch SW(Von=0.105 Voff=0.095 ron=0.001 roff=1e5 Noiseless)
.model Sswitch SW(Von=4.5 Voff=0.1 ron=1000 roff=1e6 Noiseless)
.model DzVoutP D(BV=4.3 Noiseless)
.model DzVoutN D(BV=4.3 Noiseless)
.model DVnoisy D(IS=3.75e-17 KF=3.23e-16)
.model DINnoisy D(IS=2.5e-16 KF=9.86e-16)
.model DIPnoisy D(IS=2.5e-16 KF=9.86e-16)
.model Rideal res(T_ABS=-273)
.ends ADA4899
