* Copyright (c) 1998-2021 Analog Devices, Inc.  All rights reserved.
*
.subckt MAX410 1 2 3 4 5
C2 1 4 2p
C3 2 4 2p
R19 1 4 1G
R20 2 4 1G
R21 1 2 668Meg
C13 1 2 4p
GIVR 0 IVR 14 0 1m
RIVR 0 IVR 1k Noiseless
CIVR IVR 0 1.59f
BCMPI 0 CMpi I=1m*(V(3)+{Vcm_max})
RCMPI CMpi 0 1k Noiseless
CCMPI CMpi 0 1n
BCMNI 0 CMni I=1m*(V(4)+{Vcm_min})
RCMNI CMni 0 1k Noiseless
CCMNI CMni 0 1n
GCMP 0 CMp CMpi 0 1k
RCMP 0 CMp 1m Noiseless
GCMN 0 CMn CMni 0 1k
RCMN 0 CMn 1m Noiseless
DIP CMp IVR DI
DIN IVR CMn DI
CIN IVR CMn 1f
CIP IVR CMp 1f
I2 21 20 100
D1 20 0 DN1
D2 0 21 DN1
I3 22 23 1n
R10 22 0 1k
R11 0 23 1k
R_E1 71 14 1
EG1 VIBIASP 0 62 0 1u
EG2 VIBIASM 0 622 0 1u
I6 0 62 1m
VA100 62A 62 0
R17 0 62A 80 TC=11.1m,172u
I622 0 622 1m
VA101 622A 622 DC 0
R17A 0 622A 80 TC=11.1m,172u
R16 0 61 1 TC=4.25m,-1.71u
G61 3 4 61 0 1
B_G60 0 61 I=TABLE (V(3,4),(0, 0), (1.2,2.5f),(1.8,2.5m),(2.5,2.5m), (3,2.5m),(3.3,2.5m),(5.5,2.5m))
G3A 0 30A IVR 2 1
RG3A 30A 0 1
G3 0 30 30A 0 1
R3 30 0 1k
G6 0 33 30 0 1m
R6 33 0 1k
R7 34 0 1k
C7 34 0 {Cfp1}
G8 0 37 34 0 1m
R8 37 0 1k
C8 37 0 636f
G9 0 38 37 0 1m
R9 39 0 1k
L9 38 39 159n
R_GRL9 38 39 {1/10m} Noiseless
R23 50 0 100Meg
VR15 57 96 0
R15X 57 96 1G
F1 0 50 VR15 1
R12 51 0 1k
R13 52 0 1k
B_GD12 50 51 I=IF ((V(50,51))>0, V(50,51)/2m, V(50,51)/1G)
B_GD13 50 52 I=IF ((V(50,52))>0, V(50,52)/1G, V(50,52)/2m)
B_G21 3 0 I=V(51)*1m
B_G22 0 4 I=V(52)*-1m
S_D4 3 5 5 3 ESDO
S_D3 5 4 4 5 ESDO
GB1 1 0 VIBIASP 0 1
GB2 2 0 VIBIASM 0 1
R_E5 1 71 1
B_E5 71 1 I=1u*(Temp-27)
B_E3 0 55 I=1m*(V(3)*1+V(51)*-10.5m)
R22 0 55 1k
R30 56 0 1k
B_E2 0 56 I=1m*(V(4)*1 + V(52)*-10.6m)
DOP Vsatp 57 DO
DON 57 Vsatn DO
G10 0 Vsatp 55 0 1k
R32 Vsatp 0 1m
G11 0 Vsatn 56 0 1k
R33 Vsatn 0 1m
C9 57 Vsatp 1f
C10 57 Vsatn 1f
C11 Vsatp 0 1n
C12 Vsatn 0 1n
R_96_5 5 96 1m
Rx 57 N001 {Rx_Zo} Noiseless
Rdummy 57 0 {Rdummy_Zo} Noiseless
R34 N001 0 1 Noiseless
B_E1 14 71 I=V(20)*261m + V(21)*261m +V(22)*261m + V(23)*261m
G30 0 110 3 0 36u
R302 110 0 1G 
GR30 110 0 110 0 1m 
C30 110 0 159U
G31 0 111 110 0 1 
L31 111 112 31.8M
GRL31 111 112 111 112 49.9N
R322 112 0 1G 
GR32 112 0 112 0 1 
G33 0 114 111 0 1 
R342 114 0 1G 
C34 114 0 15.9N
GR34 114 0 114 0 1 
G35 0 115 114 0 1 
L35 115 116 15.9P
GRL35 115 116 115 116 99.9
R36 116 0 1G 
GR36 116 0 116 0 1 
G37 0 117 115 0 1 
R37 117 0 1G 
C37 117 0 15.9P
GR37 117 0 117 0 1 
G38 0 118 117 0 1 
L38 118 119 15.9P
GRL38 118 119 118 119 99.9
R39 119 0 1G 
GR39 119 0 119 0 1 
G40 0 120 4 0 36u
R40 120 0 1G 
GR40 120 0 120 0 1m 
C40 120 0 159U
G41 0 121 120 0 1 
L41 121 122 31.8M
GRL41 121 122 121 122 49.9N
R42 122 0 1G 
GR42 122 0 122 0 1 
G43 0 124 121 0 1 
R44 124 0 1G 
C44 124 0 15.9N
GR44 124 0 124 0 1 
G45 0 125 124 0 1 
L45 125 126 15.9P
GRL45 125 126 125 126 99.9
R46 126 0 1G 
GR46 126 0 126 0 1 
G147 0 127 125 0 1 
R47 127 0 1G 
C47 127 0 15.9P
GR47 127 0 127 0 1 
G48 0 128 127 0 1 
L48 128 129 15.9P
GRL48 128 129 128 129 99.9
R49 129 0 1G 
GR49 129 0 129 0 1 
G50 0 130 VALUE { ( V(1)+V(2))/2 * 3.16U}
R50 130 0 1G 
GR50 130 0 130 0 1m 
C50 130 0 159U
G51 0 131 130 0 1 
L51 131 132 159M
GRL51 131 132 131 132 9.99N
R51 132 0 1G 
GR51 132 0 132 0 1 
G53 0 133 131 0 1 
R53 133 0 1G 
C53 133 0  636N
GR53 133 0 133 0 1 
G55 0 134 133 0 1 
L55 134 135 15.9P
GRL55 134 135 134 135 99.9
R55 135 0 1G 
GR55 135 0 135 0 1 
G57 0 137 134 0 1 
R57 137 0 1G 
C57 137 0  15.9P
GR57 137 0 137 0 1 
B_E9 0 35 I=({1/Zo_dc}*V(38)+V(118)+V(128)+V(137))
R_E9 0 35 {Zo_dc} Noiseless
B1 0 N001 I=Uplim(Dnlim({G1_Zo}*V(35,57), {Izon}, 25m), {Izop}, 25m)
C_30 30 0 1f
C_33 33 0 1f
BSR 0 34 I=Uplim(Dnlim(V(33)*31.6*1.13, {Isink},1m),{Isrc},1m)
DGP N003 34 DG
DGN 34 N004 DG
VGN N004 N008 0
VGP N003 N007 0
GRP 0 N007 GRpi 0 1k
GRN 0 N008 GRni 0 1k
RRP N007 0 1m Noiseless
RRN N008 0 1m Noiseless
RGRP GRpi 0 1k Noiseless
RGRN GRni 0 1k Noiseless
CGRN GRni 0 10p
CGRP GRpi 0 10p
CGP 34 N007 1f
CGN 34 N008 1f
BGRP 0 GRpi I=1m*({Zo_max}* {Iscp}+V(3)+50)
BGRN 0 GRni I=1m*({Zo_max}* {Iscn}+V(4)-50)
.MODEL ESDO SW (Ron=50 Roff=1G Vt=0.5 Vh=-0.1 Vser=0.6 Ilimit=4m Lser=1n Noiseless)
.MODEL DN1 D (IS=1p KF=1n AF=1)
.MODEL DIDL2 D ()
.MODEL DG D(Vfwd=10k Vrev=0 Revepsilon=0.5 Noiseless Ron=1m)
.MODEL DO D(Vfwd=1k Vrev=0 Revepsilon=0.1 Ron=1m Noiseless)
.MODEL DI D(Vfwd=1k Vrev=0 Revepsilon=0.1 Noiseless)
.param Vcm_min=1.2 Vcm_max=-1.3
.param beta_Zo=1.13
.param Rx_Zo = {100 * Zo_max}
.param Rdummy_Zo = {10 * Zo_max}
.param G1_Zo={Rx_Zo/(Zo_dc*beta_Zo)}
.param Zo_dc=100
.param Zo_max={Zo_dc}
.param Ipa=-0.178 Ipb=0.21 Ipc=3m Ipd=-80m
.param Ina=-0.1926 Inb=0.239 Inc=2.4m Ind=12.4m
.param Iscp={Ipa+Ipb*cos(temp*Ipc+Ipd)}
.param Iscn={-(Ina+Inb*cos(temp*Inc+Ind))}
.param IZop={Rx_Zo*Iscp} IZon={Rx_Zo*Iscn}
.param Cfp1=159u
.param SRa=4.59 SRb=2.24 SRc=9.18m SRd=-1.57
.param SRp={(SRa+SRb*cos(temp*SRc+SRd))*1.19}
.param SRn={-SRp}
.param Isrc = {Cfp1 * SRp * 1Meg} Isink = {Cfp1 * SRn * 1Meg}
.ends MAX410